US04112095
Preparation of 6-(2-methyl-5-chlorophenyl)-1,2,4-triazolo[4,3-b]pyridazine
As described in Example 35, 2-methyl-5-chlorobenzaldehyde is converted to 3-chloro-6-(2-methyl-5-chlorophenyl)pyridazine. A mixture of the preceding compound and formylhydrazine in n-butanol is refluxed for 24 hours to give the product of the example.

reactant | 2-methyl-5-chlorobenzaldehyde | CC1=C(C=O)C=C(C=C1)Cl | C8H7ClO
reactant | 3-chloro-6-(2-methyl-5-chlorophenyl)pyridazine | ClC=1N=NC(=CC1)C1=C(C=CC(=C1)Cl)C | C11H8Cl2N2
reactant | formylhydrazine | C(=O)NN | CH4N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-(2-methyl-5-chlorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | CC1=C(C=C(C=C1)Cl)C=1C=CC=2N(N1)C=NN2 | C12H9ClN4
